US06143760
To a solution of 6-benzylamino-4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxylic acid (59 mg, 0.2 mmol) and triethylamine (59 ml, 0.42 mmol) in N,N-dimethylformamide (1 mL) at 0° C. was added ethyl chloroformate (39 mL, 0.41 mmol). After stirring at 0° C. for 1 h, n-butylamine 99 mL, 1.0 mmol) was added. The reaction mixture was stirred an additional 2 h at 0° C., then poured into saturated aqueous sodium chloride. The mixture was cooled in an ice bath, the precipitate collected, rinsed with water and ether, then dried to afford 49 mg of N-n-butyl 6-benzylamino-4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxamide as a brown solid. Compound 1. An alternate name for this compound is: N-butyl(4-oxo-6-(benzylamino)(3-hydro-5-azaquinolyl))formamide.

reactant | 6-benzylamino-4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxylic acid | 0.2 mmol, 59 mg | C(C1=CC=CC=C1)NC=1N=C2C(C(=CNC2=CC1)C(=O)O)=O | C16H13N3O3
reactant | triethylamine | 0.42 mmol, 59 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.41 mmol, 39 mL | ClC(=O)OCC | C3H5ClO2
reactant | n-butylamine | 1.0 mmol, 99 mL | C(CCC)N | C4H11N
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | N-n-butyl 6-benzylamino-4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxamide | 49 mg | C(CCC)NC(=O)C1=CNC2=CC=C(N=C2C1=O)NCC1=CC=CC=C1 | C20H22N4O2
